US06376669B1
Thionyl chloride (5 mL) and 4-amino-2-ethoxymethyl-1H-imidazo[4,5-c]quinoline-1-ethanol (1 g) were combined and heated on a steam bath until thin layer chromatography (20% methanol/ethyl acetate) showed the disappearance of starting material. The reaction mixture was cooled to ambient temperature and then slowly poured into a mixture of ice and water. The mixture was neutralized with sodium bicarbonate and then extracted 3 times with dichloromethane. The extracts were combined, washed 3 times with aqueous sodium bicarbonate, dried with magnesium sulfate, filtered and then concentrated under vacuum. Acetone (about 10 mL) was added to the residue followed by methanolic hydrogen chloride (about 1 mL). The mixture was refluxed and a precipitate formed. The reaction mixture was cooled to ambient temperature. The precipitate was isolated by filtration and then washed with acetone. The solid was dissolved in hot methanol and then precipitated by the addition of acetone. The precipitate was isolated by filtration, washed with water and then dried to provide 1-(2-chloroethyl)-2-ethoxymethyl-1H-imidazo[4,5-c]quinolin-4-amine hydrochloride. Analysis: Calculated for C15H18ClN4: % C, 52.80; % H, 5.32; % N, 16.42; Found: % C, 52.67; % H, 5.21; % N, 16.29.

reactant | Thionyl chloride | 5 mL | S(=O)(Cl)Cl | Cl2OS
reactant | 4-amino-2-ethoxymethyl-1H-imidazo[4,5-c]quinoline-1-ethanol | 1 g | NC1=NC=2C=CC=CC2C2=C1N=C(N2CCO)COCC | C15H18N4O2
reactant | methanol ethyl acetate | CO.C(C)(=O)OCC
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | water | O | H2O
product | 1-(2-chloroethyl)-2-ethoxymethyl-1H-imidazo[4,5-c]quinolin-4-amine hydrochloride | Cl.ClCCN1C(=NC=2C(=NC=3C=CC=CC3C21)N)COCC | InChI=1S/C15H17ClN4O.ClH/c1-2-21-9-12-19-13-14(20(12)8-7-16)10-5-3-4-6-11(10)18-15(13)17;/h3-6H,2,7-9H2,1H3,(H2,17,18);1H
